US04112102
B. dl-6-{m-(6-Chloronicotinoylamino)phenyl}-2,3,5,6-tetrahydroimidazo [2,1-b]thiazole
dl-6-(m-Aminophenyl)-2,3,5,6-tetrahydroimidazo[2,1-b]thiazole (dl-m-aminotetramisole) (42 g) was dissolved with stirring in aqueous methanol (200 ml methanol/50 ml water), and the pH was adjusted to 5 with 2N hydrochloric acid. The mixture was then cooled in an ice/water mixture and 6-chloronicotinoyl chloride (67 g--prepared as in Part A above) was added. The resulting mixture was stirred at room temperature overnight. The mixture was then diluted with methylene chloride (about 500 ml), and pH adjusted to 10 with 1N sodium hydroxide. The organic layer was separated, washed to neutrality with water, and allowed to stand, when the desired product, dl-6-(m-(6-chloronicotinoylamono)phenyl)-2,3,,5,6-tetrahydroimidazo[2,1-b]thiazole (52.6 g), m.p. 135°-138°, crystallied out. The product was filtered off. Evaporation of the filtrate produced a second crop (6.8 g) of the product.

reactant | dl-6 (m-Aminophenyl)-2,3,5,6-tetrahydroimidazo[2,1-b]thiazole | 42 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCNCC2=CC(=C(C=C2)O)OC)O.NC=1C=C(C=CC1)C1CN2C(S1)=NCC2
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
solvent | methylene chloride | about 500 ml | C(Cl)Cl | CH2Cl2
product | dl-6 {m-(6-Chloronicotinoylamino)phenyl}-2,3,5,6-tetrahydroimidazo [2,1-b]thiazole | 6.8 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCNCC2=CC(=C(C=C2)O)OC)O.ClC1=NC=C(C(=O)NC=2C=C(C=CC2)C2CN3C(S2)=NCC3)C=C1 | InChI=1S/C26H42N4O4.C17H15ClN4OS/c1-33-25-17-21(7-9-23(25)31)19-29-15-5-13-27-11-3-4-12-28-14-6-16-30-20-22-8-10-24(32)26(18-22)34-2;18-15-5-4-12(9-20-15)16(23)21-13-3-1-2-11(8-13)14-10-22-7-6-19-17(22)24-14/h7-10,17-18,27-32H,3-6,11-16,19-20H2,1-2H3;1-5,8-9,14H,6-7,10H2,(H,21,23)
